US07192974B2
Intermediate 21: {2-[(Methoxycarbonyl)(methyl)amino]ethoxy}acetic acid
[2-(Methylamino)ethoxy]acetic acid (Bull. Soc. Chim.; 1956, 1210) (130 mg, 0.98 mmol) was mixed with triethylamine (0.56 mL, 4 mmol) in dry DMF (2 mL). Methylchloroformate (185 mg, 1.95 mmol) was added and the mixture was stirred at room temperature for 20 minutes, then quenched with water. Aqueous HCl (2M) was added to adjust the pH to ˜2. Product was extracted with ethyl acetate, the organic phase was dried over magnesium sulfate and concentrated under reduced pressure to give the crude product as an oil (100 mg), which was used without further purification.

reactant | [2-(Methylamino)ethoxy]acetic acid | 0.98 mmol, 130 mg | CNCCOCC(=O)O | C5H11NO3
reactant | triethylamine | 4 mmol, 0.56 mL | C(C)N(CC)CC | C6H15N
reactant | Methylchloroformate | 1.95 mmol, 185 mg | COC(=O)Cl | C2H3ClO2
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | {2-[(Methoxycarbonyl)(methyl)amino]ethoxy}acetic acid | 100 mg | COC(=O)N(CCOCC(=O)O)C | C7H13NO5
